US06867320B2
According to a known method described in a reference [L. C. Anderson et al., Journal of the American Chemical Society (J. Am. Chem. Soc.), vol. 65, p.241, 1943], a solution of 2-amino-6-bromonaphthalene (223 mg) obtained from commercially available 2-bromo-6-hydroxynaphthalene (TCI) in anhydrous THF (10 ml) was added with 30% potassium hydride (191 mg, Ald) under ice cooling and stirred for 1 hour. The reaction mixture was cooled to −78° C. under argon atmosphere, added dropwise with-1.7 M solution of t-butyllithium in pentane (1.88 ml) over 10 minutes and stirred for 30 minutes. The reaction mixture was added dropwise with (iPrO)3B (0.92 ml) over 10 minutes, stirred for 30 minutes, then warmed to room temperature and further stirred for 3 hours. The reaction mixture was added with water (3 ml) and 0.5 M aqueous sulfuric acid (4 ml) and extracted with diethyl ether (100 ml×3). The organic layer was washed with saturated brine and dried, and then the solvent was evaporated under reduced pressure to obtain crude 6-amino-2-naphthaleneboronic acid (402 mg). According to the procedure described in the synthesis method of Compound of Example 001 (Preparation Method 4, Step d-1) with the modifications that the reaction was carried out for 13 hours, and the purification was performed by flash column chromatography (hexane:ethyl acetate=4:1), a solution of the above compound in ethanol (0.5 ml), Intermediate 3 (119 mg), 2 M aqueous sodium carbonate (1.5 ml) and (Ph3P)4Pd (61 mg) were reacted and treated to obtain the title compound (Compound No. 011, 129 mg).

reactant | 2-amino-6-bromonaphthalene | 223 mg | NC1=CC2=CC=C(C=C2C=C1)Br | C10H8BrN
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-bromo-6-hydroxynaphthalene | BrC1=CC2=CC=C(C=C2C=C1)O | C10H7BrO
